US06063854
98 parts of butyl acrylate and 2 parts of tricyclodecenyl acrylate were polymerized at 65° C. for 3 hours with stirring in 154 parts of water with addition of 2 parts of sodium dioctyl sulfosuccinate (70% strength) as emulsifier and 0.5 part of potassium persulfate. This gave an approximately 40% strength dispersion. The median particle size of the latex was about 100 nm.

reactant | sodium dioctyl sulfosuccinate | S(=O)(=O)(O)C(C(=O)OCCCCCCCC)CC(=O)OCCCCCCCC.[Na]
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
